US04748274
A solution was prepared from 77 ml of methanol and 13.0 g of methyl 4-(oxoethylidene)cyclohexanecarboxylate and cooled to 3° C. with an ice-water bath. With vigorous stirring, 3.1 g of sodium borohydride was added in portions over 30 minutes. The reaction was allowed to stir for an additional hour at 3° C. before glacial acetic acid (1 ml) was added to quench the reaction and the methanol was removed under reduced pressure. The residue was taken up in 200 ml of dichloromethane and partitioned with 400 ml of water. The organic layer was separated and washed with 200 ml of saturated sodium chloride, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. The resulting oil was purified on the Prep LC (30% ethyl acetate/hexane, 250 ml/min., 2 min./cm, 2 columns, Rt =13 min.) to give 11.5 g of fairly pure product. Bulb-to-bulb distillation on the Kugelrohr at 150°-160° C./0.8 mm yielded 9.03 g (69%) of methyl 4-(2-hydroxyethylidene)cyclohexanecarboxylate. 1H NMR (CDCl3 60 MHz) δ 5.40 (t, 1 H); 4.10 (d, 2 H); 3.70 (s, 3 H); 2.9-1.3 (10 H).

reactant | methanol | 77 ml | CO | CH4O
reactant | methyl 4-(oxoethylidene)cyclohexanecarboxylate | 13.0 g | O=CC=C1CCC(CC1)C(=O)OC | C10H14O3
reactant | sodium borohydride | 3.1 g | [BH4-].[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | methyl 4-(2-hydroxyethylidene)cyclohexanecarboxylate | 9.03 g, 69% | OCC=C1CCC(CC1)C(=O)OC | C10H16O3
